*BZX55C51 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*51V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C51 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  50.36
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=24.3P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=335U RS=42.7 N=9.6)
.ENDS